US08217032B2
4-[6-Benzyloxy-2-(4-fluoro-phenyl)-naphthalen-1-yloxy]-phenol
Add 18M H2SO4 (1 mL, 16.8 mmol) dropwise into a solution of H2O2 (1 mL, 9.7 mmol) and 4-[6-benzyloxy-2-(4-fluoro-phenyl)-naphthalen-1-yloxy]-benzaldehyde at 0° C. and stir at room temperature for 12 hours. Add H2O (20 mL) and CH2Cl2 (100 mL). Separate layers and extract the aqueous layer with CH2Cl2 (2×50 mL). Combine the organic layers, dry with magnesium sulfate and concentrate in vacuo to obtain 1.88 g (73%) of the title compound: mass spectrum (ion spray) m/z=435.1 (M−H).

reactant | H2SO4 | 16.8 mmol, 18M, 1 mL | OS(=O)(=O)O | H2O4S
reactant | H2O2 | 9.7 mmol, 1 mL | OO | H2O2
reactant | 4-[6-benzyloxy-2-(4-fluoro-phenyl)-naphthalen-1-yloxy]-benzaldehyde | C(C1=CC=CC=C1)OC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(C=O)C=C1)C1=CC=C(C=C1)F | C30H21FO3
reactant | H2O | 20 mL | O | H2O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-[6-Benzyloxy-2-(4-fluoro-phenyl)-naphthalen-1-yloxy]-phenol | 1.88 g, 73% | C(C1=CC=CC=C1)OC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(C=C1)O)C1=CC=C(C=C1)F | C29H21FO3
